US05990105
0.42 g (0.00112 mol) of 4-benzenesulphonyl-2,6-dibromopyridine and 1.4 ml of 8M methylamine in ethanol were stirred at room temperature in a mixture of 11 ml of ethanol and 11 ml of dioxane for 48 hrs. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane 1:10. The product-containing fractions were suspended in 25 ml of diethyl ether, treated in an ultrasound bath and diluted with 45 ml of hexane. The suspension was suction filtered and the filter material was dried in a high vacuum. There was obtained 0.224 g (61%) of (4-benzenesulphonyl-6-bromopyridin-2-yl)-methylamine as white crystals; m.p.: 145-148° C.

reactant | 4-benzenesulphonyl-2,6-dibromopyridine | 0.00112 mol, 0.42 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)Br | C11H7Br2NO2S
reactant | methylamine | 8M, 1.4 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 11 ml | C(C)O | C2H6O
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
product | (4-benzenesulphonyl-6-bromopyridin-2-yl)-methylamine | 0.224 g, 61% | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NC | C12H11BrN2O2S
